US08071778B2
2-(4-methoxyphenyl)-6-(((4-phenylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine.
tert-butyl 4-(((6-chloro-4-(trifluoromethyl)pyridine-2yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (100.0 mg, 0.21 mmol); 4-methoxyphenyl boronic acid (128.0 mg, 0.84 mmol), and tetrakis(triphenylphosphine)palladium(0) (48 mg, 0.04 mmol) were combined in dry tetrahydrofuran (3 mL) in a sealed tube. The mixture was flushed with nitrogen then 0.75 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 2 h. After cooling to room temperature, the reaction mixture was concentrated and treated with a trifluoroacetic acid/methylene chloride mixture (1:2, 3 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. Concentration and preparative HPLC afforded 41.0 mg (34%) of the desired compound as its TFA salt. 1H-NMR (CD3OD, 400 MHz) δ 7.99 (d, 2H, J=8.0 Hz), 7.86 (s, 1H), 7.31-7.49 (m, 5H), 7.24 (s, 1H), 7.01 (d, 2H, J=8.0 Hz), 4.61 (s, 2H), 3.84 (s, 3H), 3.34 (s, 2H), 3.32-3.60 (m, 2H), 2.85-2.97 (m, 2H), 2.53-2.57 (m, 2H), 2.20-2.26 (m, 2H). Mass spec.: 457.18 (MH)+.

reactant | tert-butyl 4-(((6-chloro-4-(trifluoromethyl)pyridine-2yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.21 mmol, 100.0 mg | ClC1=CC(=CC(=N1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C24H28ClF3N2O3
reactant | 4-methoxyphenyl boronic acid | 0.84 mmol, 128.0 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-methoxyphenyl)-6-(((4-phenylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine | 41.0 mg, 34% | COC1=CC=C(C=C1)C1=NC(=CC(=C1)C(F)(F)F)COCC1(CCNCC1)C1=CC=CC=C1 | C26H27F3N2O2
